US07115767B2
To a solution of 4-nitroaniline (1.4 g, 10 mmol) in 1,2-dichloroethane (10 ml) at 0° C. was added butyraldehyde (1.8 g, 25 mmol). The reaction mixture was stirred for 0.5 hour, then sodium triacetoxyborohydride (5.3 g, 25 mmol) and acetic acid (1 ml) was added. The reaction mixture was stirred at room temperature for 2 hours. Solvent were removed under reduced pressure and the residue purified on column of silica gel to provide the titled 4-nitro-N,N-dibutylaniline (1.1 g, 44%) as a yellow solid. 1HNNMR (CDCl3, 300 MHz), δ ppm 8.10 and 6.58 (d, J=9 Hz, 4H, Ar—H), 3.36 (t, J=9.0 Hz, 4H, 2 NCH2), 1.6 (m, 4H, 2CH2), 1.48 (m, 4H, 2CH2), 0.98 (t, 6H, 2CH3), MS (ESI) (M+1)+ 251.

reactant | 4-nitroaniline | 10 mmol, 1.4 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | butyraldehyde | 25 mmol, 1.8 g | C(CCC)=O | C4H8O
reactant | sodium triacetoxyborohydride | 25 mmol, 5.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 4-nitro-N,N-dibutylaniline | 1.1 g, 44% | [N+](=O)([O-])C1=CC=C(N(CCCC)CCCC)C=C1 | C14H22N2O2
